US07473786B1
2-(4-Vinyl-phenyl)-benzo[b]furan (entry 9, Table 2):
The general procedure was used to convert 1-Ethynyl-4-vinyl-benzene and 2-iodophenol to the title product. Purification by flash chromatography (hexanes as the eluent) gave the analytically pure product as a white solid (300 mg, 68% yield). 1H NMR (300 MHz, CDCl3) δ 7.79 (d, J=8.45, 2H), 7.56-7.44 (m, 4H), 7.29-7.19 (m, 2H), 6.98 (s, 1H), 6.74 (dd, J=10.93 and J=6.59, 1H), 5.78 (d, J=17.71, 1H), 5.28 (d, J=10.93, 1H). 13C NMR (75 MHz, CDCl3) δ 155.66, 154.87, 137.69, 136.26, 129.75, 129.22, 126.61, 125.02, 124.28, 122.94, 120.87, 114.40, 111.13, 101.37. Anal. Calcd. for C16H12O: C, 87.25; H, 5.49. Found C, 87.54; H, 5.62. m.p.: 164-165° C.

reactant | 1-Ethynyl-4-vinyl-benzene | C(#C)C1=CC=C(C=C1)C=C | C10H8
reactant | 2-iodophenol | IC1=C(C=CC=C1)O | C6H5IO
product | 2-(4-Vinyl-phenyl)-benzo[b]furan | C(=C)C1=CC=C(C=C1)C1=CC2=C(O1)C=CC=C2 | C16H12O
